2114-10-25 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Hypotension during
   cath
   24 Hour Events:
   Pt maintained SBPs overnight.  No acute events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-10-25**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 84 (80 - 113) bpm
   BP: 97/51(62) {94/47(62) - 127/75(85)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,934 mL
                                                                    754 mL
   PO:
             TF:
   IVF:
                                                                  1,934 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,350 mL
   Urine:
                                                                    900 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,034 mL
                                                                   -595 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   NECK: Supple, JVP flat
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g.
   LUNGS:  Resp were unlabored, no accessory muscle use. CTAB
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e.
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Labs / Radiology
   141
                               [image002.gif]
                                     108
                               [image002.gif]
                                     22
   [image004.gif]
   147
                                                                   AGap=13
   [image005.gif]
   3.5
                               [image002.gif]
                                     24
                               [image002.gif]
                                     1.1
   [image007.gif]
   Mg: 1.4
   ALT: 12
   AP:
   Tbili: 0.3
   Alb: 3.3
   AST: 16
   LDH: 168
   Dbili:
   TProt:
   [**Doctor First Name 354**]:
   Lip:
   86
                                                                      12.0
                                                            [image007.gif]
                                    13.1
   [image004.gif]
   10
                                   [image008.gif]
   [image004.gif]
                                    38.0
   [image007.gif]
   N:97.2 L:1.3 M:1.3 E:0.1 Bas:0.1
   Assessment and Plan
   ASSESSMENT AND PLAN 67 yo asymptomatic male with h/o hyperlipidemia who
   presented for diagnostic/interventional cath given abnormal Cardiac CT
   and found to have LAD and LCX dz now s/p DES to LAD.
   .
   # CORONARIES: Pt underwent cath which showed occluded mid-LAD and 70%
   prox LAD stenosis, LCX with mild dz, now s/p PCI to LAD--> DES placed
   in mid LAD and 1 DES in prox LAD; balloon angioplasty at ostium of
   diag.
   -Integrillin x 18 hrs, stop at 1pm
   -asa, plavix, lipitor
   -IVF given high large dye load
   - Repeat CBC, concern for low platelets.  If low, stop integrillin.
   .
   # PUMP: Normal echo post-cath; normal EF 55%, euvolemic on exam
   .
   # Hypotension- resolved.  Pt had episode in cath lab requiring dopamine
   gtt.  Unclear etiology but may be related to a ? vagal episode in the
   setting of GI upset/stomach was full of air.  Other causes may include
   high dye load causing vasodilation/low body temp.
   -Stop dopamine -Bear hugger to improve body temp.
   .
   #OSA- Continue home CPAP
   .
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with integrellin
   CODE: FULL (Confirmed with pt)
   DISPO: CCU
   CONTACT: WIFE:  [**Name (NI) 505**] [**Telephone/Fax (1) 3303**]
   .
       1000 mL NS Bolus 1000 ml Over 120 mins Order date: [**10-25**] @ 0009
   7. Clopidogrel 75 mg PO DAILY  Order date: [**10-24**] @ 2140
   2. 1000 mL NS
   Continuous at 125 ml/hr for 1500 ml Order date: [**10-25**] @ 0009
   8. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO SBP> 100 or MAP >65
   Order date: [**10-25**] @ 1010
   3. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**10-24**] @ 2140
   9. Docusate Sodium 100 mg PO DAILY:PRN  Order date: [**10-24**] @ 2140
   4. Aspirin EC 325 mg PO DAILY  Order date: [**10-25**] @ 1015
   10. Eptifibatide 2 mcg/kg/min IV DRIP INFUSION Duration: 18 Hours Order
   date: [**10-24**] @ 2140
   5. Aspirin EC 243 mg PO ONCE Duration: 1 Doses Start: [**2114-10-25**] Order
   date: [**10-25**] @ 1016
   11. Magnesium Sulfate 4 gm IV ONCE Duration: 1 Doses Order date: [**10-25**]
   @ 1012
   6. Atorvastatin 10 mg PO DAILY  Order date: [**10-24**] @ 2140
   12. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses Order date:
   [**10-25**] @ 1012

2114-10-26 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Cath
   24 Hour Events:
   AM Platelets 10, repeated 5. Thought to be integralin induced so
   stopped (had received 16hrs). Transfused 1unit platelets with repeat
   Plt 31. Pt very concerned of system error that plts were not checked
   until AM labs after initiating integrelin.
   Off dobutamine drip, BPs stable.
   History obtained from Patient
   Allergies:
   History obtained from PatientIntegrilin (Intraven) (Eptifibatide)
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No lightheadedness/dizziness, no tingling
   Respiratory: No SOB
   Gastrointestinal: no abd pain, N/V, D/C
   Musculoskeletal: No Groin pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2114-10-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 65 (62 - 96) bpm
   BP: 98/51(63) {86/46(61) - 139/99(111)} mmHg
   RR: 15 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  2,314 mL
                  PO:
                                                                    750 mL
                  TF:
   IVF:
                                                                  1,337 mL
   Blood products:
                                                                    227 mL
   Total out:
                                                                  2,300 mL
                                                                  1,000 mL
   Urine:
                                                                  2,300 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: moist MM
   Cardiovascular: Normal S1S2, regular rate and rhythm, no murmurs
   Peripheral Vascular: strong distal pulses
   Respiratory / Chest: Bilateral basilar crackles.
   Abdominal: Soft, Non-tender, Bowel sounds present, groin with bilateral
   ecchymoses, small right firm hematoma (dime size),  larger left
   hematoma (2inches) with ? fluid in lateral hip.
   Extremities: no edema, warm well perfused.
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place and time,
   Labs / Radiology
   41 K/uL
   10.4 g/dL
   90 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   22 mg/dL
   113 mEq/L
   144 mEq/L
   29.6 %
   6.2 K/uL
        [image002.jpg]
                             [**2114-10-25**]  05:56 AM
                             [**2114-10-25**]  10:46 AM
                             [**2114-10-25**]  02:10 PM
                             [**2114-10-25**]  04:41 PM
                             [**2114-10-26**]  04:27 AM
   WBC
   12.0
   8.9
   6.2
   Hct
   38.0
   33.6
   29.6
   Plt
   10
   5
   5
   32
   41
   Cr
   1.1
   0.9
   Glucose
   147
   90
   Other labs: PT / PTT / INR:13.7/26.9/1.2, CK / CKMB / Troponin-T:49/3/,
   ALT / AST:[**12-4**], Alk Phos / T Bili:/0.3, Differential-Neuts:97.2 %,
   Lymph:1.3 %, Mono:1.3 %, Eos:0.1 %, D-dimer:2409 ng/mL, Fibrinogen:336
   mg/dL, Albumin:3.3 g/dL, LDH:174 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   67 yo asymptomatic male with h/o hyperlipidemia who presented for
   diagnostic/interventional cath given abnormal Cardiac CT and found to
   have LAD and LCX dz now s/p DES to LAD.
   .
   # CORONARIES: s/p Cath with PCI to LAD (DES placed in mid LAD and 1 DES
   in prox LAD)
   -asa, plavix, lipitor
   -Integrillin stopped due to thrombocytopenia. Received 16hrs.
   .
   # THROMBOCYTOPENIA:
   - Baseline normal plts on [**10-24**], dropped to 10 morning of [**10-25**]
   - Attributed to integrelin, stopped early and transfused 1 unit plts.
   - Trending up this AM
   - Will recheck, would like >60 prior to DC.
   .
   # PUMP: Normal echo post-cath; normal EF 55%, euvolemic on exam
   .
   # ANEMIA: HCT down 9 points in 24hrs (38 -> 33.6->29.6), pt
   asymptomatic
   - Only small hematomas at groin sites, with ? lateral hip blood
   collection. ? if enough to explain Hct drop.
   - Will recheck Hct at 1pm and 9pm. CT abdomen to look for
   retroperitoneal bleed.
   - Transfuse RBCs or Plts as needed if bleeding.
   .
   # Hypotension- resolved, off dopabutamine.
   Pt had episode in cath lab requiring dopamine gtt. Unclear etiology
   .
   #OSA- Continue home CPAP
   .
   FEN: Cardiac diet
   ACCESS: PIV's  18 Gauge - [**2114-10-24**] 08:48 PM, 20 Gauge - [**2114-10-24**]
   08:48 PM
   PROPHYLAXIS:  None
   CODE: FULL (Confirmed with pt)
   DISPO: CCU
   CONTACT: WIFE: [**Name (NI) 505**] [**Telephone/Fax (1) 3303**]
   Active Medications [**Known lastname 3342**],[**Known firstname 3343**]
   1. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**10-24**] @ 2140
   2. Aspirin EC 325 mg PO DAILY  Order date: [**10-25**] @ 1015
   3. Atorvastatin 10 mg PO DAILY  Order date: [**10-24**] @ 2140
   4. Clopidogrel 75 mg PO DAILY  Order date: [**10-24**] @ 2140
   5. Docusate Sodium 100 mg PO DAILY:PRN  Order date: [**10-24**] @ 2140

2114-10-27 06:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 67 yo asymptomatic male with h/o hyperlipidemia who
   presented for diagnostic/interventional cath given abnormal Cardiac CT
   and found to have LAD and LCX dz now s/p DES to LAD.
   24 Hour Events:
   Stable
   CT scan to evaluate hematocrit drop showed
    1. Moderate amount of stranding is noted localized to the presumed
       left-sided catheterization site related to post-inflammatory
       stranding and disseminated hematoma, however, no discrete
       retroperitoneal hematoma is appreciated.
    2. Multiple slightly irregular low attenuating hepatic lesions, likely
       benign hepatic cysts.
    3. Right renal simple cyst. Small punctate 1-2 mm nonobstructive
       bilateral renal calculi.
    4. Sigmoid diverticulosis without evidence of acute diverticulitis.
   Afternoon labs showed improved Hct to 34.5 (from 29.6) and Plt to 48
   (from 41)
   Allergies:
   Integrilin (Intraven) (Eptifibatide)
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: No complaints
   Flowsheet Data as of  [**2114-10-27**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 82 (64 - 99) bpm
   BP: 81/34(44) {81/34(44) - 135/96(102)} mmHg
   RR: 23 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    625 mL
   Urine:
                                                                  2,925 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,325 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: moist MM
   Cardiovascular: Normal S1S2, regular rate and rhythm, no murmurs
   Respiratory / Chest: Bilateral basilar crackles.
   Abdominal: Soft, Non-tender, Bowel sounds present, groin with bilateral
   ecchymoses L>R, small right firm hematoma (dime size),  larger left
   hematoma (2inches) with ? fluid in lateral hip.
   Extremities: no edema, warm well perfused, strong distal pulses
   Neurologic: A+Ox3, strength and sensation in tact, CN 2-12 in tact
   Labs / Radiology
   57 K/uL
   11.3 g/dL
   95 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.5 mEq/L
   25 mg/dL
   106 mEq/L
   140 mEq/L
   32.1 %
   5.9 K/uL
        [image002.jpg]
                             [**2114-10-25**]  05:56 AM
                             [**2114-10-25**]  10:46 AM
                             [**2114-10-25**]  02:10 PM
                             [**2114-10-25**]  04:41 PM
                             [**2114-10-26**]  04:27 AM
                             [**2114-10-26**]  01:59 PM
                             [**2114-10-27**]  04:16 AM
   WBC
   12.0
   8.9
   6.2
   5.9
   Hct
   38.0
   33.6
   29.6
   34.5
   32.1
   Plt
   10
   5
   5
   32
   41
   48
   57
   Cr
   1.1
   0.9
   1.2
   Glucose
   147
   90
   95
   Other labs: PT / PTT / INR:13.7/26.9/1.2, CK / CKMB / Troponin-T:49/3/,
   ALT / AST:[**12-4**], Alk Phos / T Bili:/0.3, Differential-Neuts:97.2 %,
   Lymph:1.3 %, Mono:1.3 %, Eos:0.1 %, D-dimer:2409 ng/mL, Fibrinogen:336
   mg/dL, Albumin:3.3 g/dL, LDH:174 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.9 mg/dL
   ASSESSMENT AND PLAN
   67 yo asymptomatic male with h/o hyperlipidemia who presented for
   diagnostic/interventional cath given abnormal Cardiac CT and found to
   have LAD and LCX dz now s/p DES to LAD.
   .
   # CORONARIES: s/p Cath with PCI to LAD (DES placed in mid LAD and 1 DES
   in prox LAD)
   -asa, plavix, lipitor
   -Integrillin stopped due to thrombocytopenia. Received 16hrs.
   .
   # THROMBOCYTOPENIA: Secondary to integrelin, now off
   - Baseline platelets normal, trending up slowly, this AM 57
   - Goal for discharge 60-80, will discuss
   .
   # ANEMIA: HCT dropped on [**10-25**] with small bilateral hematomas and
   possible fluid collection in left hip.
   - CT scan without retroperitoneal bleed
   - Serial hematocrits stable (34.5, 32.1)
   - Pt asymptomatic
   .
   # Hypotension- resolved, off dopabutamine
   .
   #OSA- Continue home CPAP
   .
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS: None
   CODE: FULL (Confirmed with pt)
   DISPO: Home from CCU once plts acceptable
   CONTACT: WIFE:  [**Name (NI) 505**] [**Telephone/Fax (1) 3303**]
   Active Medications
      1. Acetaminophen 325-650 mg PO Q6H:PRN  Order date: [**10-24**] @ 2140
   5. Clopidogrel 75 mg PO DAILY  Order date: [**10-24**] @ 2140
   2. Aspirin EC 325 mg PO DAILY  Order date: [**10-25**] @ 1015
   6. Docusate Sodium 100 mg PO DAILY:PRN  Order date: [**10-24**] @ 2140
   3. Atorvastatin 10 mg PO DAILY  Order date: [**10-24**] @ 2140
   7. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses Order date:
   [**10-26**] @ 0831
   4. Calcium Gluconate 2 gm / 100 ml NS IV ONCE Duration: 1 Doses Order
   date: [**10-26**] @ [**2029**]